US07514471B2
(ii) (2S)-2-Ethoxy-3-(4-{2-[hexyl(2-phenylethyl)amino]-2-oxoethoxy}phenyl)propanoic acid
To a solution of ethyl(2S)-2-ethoxy-3-(4-{2-[hexyl(2-phenylethyl)amino]-2-oxoethoxy}phenyl)propanoate (0.081 g, 0.17 mmol) in THF (8.6 mL) was added 4.3 mL of a 0.10 M LiOH solution and the reaction mixture was stirred at room temperature overnight. The reaction mixture was acidified with 2M HCl and extracted with ethyl acetate (3×25 mL). The combined organic phase was washed with brine (25 mL), dried over Na2SO4, and concentrated in vacuo to afford 0.073 g (96%) of a colourless oil.

reactant | ethyl(2S)-2-ethoxy-3-(4-{2-[hexyl(2-phenylethyl)amino]-2-oxoethoxy}phenyl)propanoate | 0.17 mmol, 0.081 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OCC(=O)N(CCC1=CC=CC=C1)CCCCCC | C29H41NO5
reactant | LiOH | 0.10 M | [Li+].[OH-]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 8.6 mL | C1CCOC1 | C4H8O
product | (2S)-2-Ethoxy-3-(4-{2-[hexyl(2-phenylethyl)amino]-2-oxoethoxy}phenyl)propanoic acid | 0.073 g, 96% | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)OCC(=O)N(CCC1=CC=CC=C1)CCCCCC | C27H37NO5
